US06194574B1
A. 2-Pyrazinyl-2-(2,4,6-trimethylphenyl)ethanenitrile
A mixture of 2-(2,4,6-trimethylphenyl)ethanenitrile (1.6 g) and chloro-pyrazine (1.6 g) in THF (6 mL) is slowly added dropwise to an ice-cold solution of potassium t-butoxide (3.4 g) in THF (10 mL). After the addition, the mixture is further stirred at 0° C. for 30 minutes and then diluted with aqueous ammonium chloride. The resulting mixture is extracted twice with ethyl ether and the combined extracts are washed with saturated brine, dried (Na2SO4), filtered, and concentrated in vacuo. Chromatography (20 to 33% ethyl acetate in hexane) gives 2.15 g of the title compound as a beige solid: 1H nmr (400 MHz, CDCl3) d 2.30 (s, 9 H), 5.78 (s, 1 H), 6.95 (s, 2 H), 8.46 (s, 1 H), 8.54 (d, 1 H), 8.60 (d, 1 H).

reactant | 2-(2,4,6-trimethylphenyl)ethanenitrile | 1.6 g | CC1=C(C(=CC(=C1)C)C)CC#N | C11H13N
reactant | chloro-pyrazine | 1.6 g | ClC1=NC=CN=C1 | C4H3ClN2
reactant | potassium t-butoxide | 3.4 g | CC(C)([O-])C.[K+]
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | ammonium chloride | [Cl-].[NH4+]
product | 2-Pyrazinyl-2-(2,4,6-trimethylphenyl)ethanenitrile | 2.15 g | N1=C(C=NC=C1)C(C#N)C1=C(C=C(C=C1C)C)C | C15H15N3
